Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ s/p GSW ___ c/b traumatic T9 paraplegia with bullet 
fragment remaining, requiring straight caths q6h for urine and 
on levaquin for UTI treatment (end ___ 
presents after having awoken this morning at 0100 with chills, 
dyspnea, and central chest pain "like someone stepping on my 
chest" and pleuritic; no cough. Has never had PE before, states 
has never had this sensation previously. By report ___ and 
diaphoretic on EMS arrival, ___ on room air, not tachycardic.

In the ED initial vitals were: 98.2 60 114/53 18 100% RA

Labs significant for BUN/Creat ___, Trop - 0.33 -> 0.25 BNP 
28
ECG: early repolarization across precordial leads
CTA chest - Extensive bilateral lobar pulmonary embolism, TTE - 
dilated and hypokinetic RV w e/o PAH
Guaiac - negative

Patient given 1 L NS and started on a heparin gtt @ 1500 
units/hr, admitted to ___ for step-down level care.

Vitals prior to transfer were: 98.8  82   118/72  24 97% RA 

On arrival to floor, pt denies acute complaints. Reports 
pleuritic chest pain stopped earlier in the day after napping. 
Denies SOB. Girlfriend at bedside, tearful. Of note, patient 
reports being on lovenox SC for DVT ppx until discharge from 
rehab ___ (7 days PTA).
 
Past Medical History:
___ - Right shoulder 
___ - Shot in the back with resultant spinal cord injury        
                                      
LIVER LACERATION (___)

 
Social History:
___
Family History:
No family history of VTE, early MI, arrhythmia, 
cardiomyopathies, or sudden cardiac death; otherwise 
non-contributory.
 
Physical Exam:
PHYSICAL EXAM UPON ADMISSION:
VS: 98.6   136/64   83   18   96%RA
GENERAL: WDWN man in NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple with non-elevated JVP at 30 degress incline
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Mildine surgical scar, well healed. Soft, NTND. No HSM 
or tenderness.
EXTREMITIES: No c/c/e. No femoral bruits. B/l ___: muscular 
atrophy, able to generate small fasiculations on R, sensation to 
firm touch, although not able to localize specifically.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric

PHYSICAL EXAM UPON DISCHARGE:
VS: 99.4 134/72 82 18 100% onn room air
I/O 92/300
Tele- NSR
GENERAL: Young male in no acute distress.
HEENT: NCAT. Conjunctiva were pink, no pallor or cyanosis of the 
oral mucosa. No xanthelasma.
NECK: Supple. No JVD.
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. RV heave 
present.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Mildine surgical scar, well healed. Soft, non 
distended. No HSM or tenderness.
PULSES: Distal pulses palpable and symmetric
 
Pertinent Results:
LABS UPON ADMISSION:
--------------------
___ 04:20PM   ___ PTT-145.6* ___
___ 11:53AM   cTropnT-0.25*
___ 07:02AM   ___ PTT-31.8 ___
___ 06:08AM   GLUCOSE-104* UREA N-12 CREAT-1.3* SODIUM-142 
POTASSIUM-4.1 CHLORIDE-101 TOTAL CO2-31 ANION GAP-14
___ 06:08AM   cTropnT-0.33*
___ 06:08AM   proBNP-28
___ 06:08AM   WBC-8.9# RBC-4.65# HGB-13.3*# HCT-41.8# 
MCV-90# MCH-28.6 MCHC-31.8*# RDW-14.5 RDWSD-47.3*
___ 06:08AM   NEUTS-76.3* LYMPHS-13.6* MONOS-8.6 EOS-0.6* 
BASOS-0.3 IM ___ AbsNeut-6.76*# AbsLymp-1.20 AbsMono-0.76 
AbsEos-0.05 AbsBaso-0.03
___ 06:01AM   HGB-14.2 calcHCT-43
___ 05:32AM   LACTATE-1.0
___ 05:23AM   WBC-3.4* RBC-1.67* HGB-4.7* HCT-16.6* MCV-99* 
MCH-28.1 MCHC-28.3* RDW-14.6 RDWSD-52.7*
___ 05:23AM   NEUTS-75.1* LYMPHS-14.9* MONOS-8.5 EOS-0.6* 
BASOS-0.3 IM ___ AbsNeut-2.57 AbsLymp-0.51* AbsMono-0.29 
AbsEos-0.02* AbsBaso-0.01
___ 05:23AM   PLT SMR-VERY LOW PLT COUNT-68*

IMAGING:
--------------------
___, EKG
Sinus rhythm. Early repolarization pattern noted, probably 
normal for
patient's age. No previous tracing available for comparison. 

___, Cardiac surface echo
The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). The right ventricular cavity is moderately 
dilated with moderate global free wall hypokinesis. There is 
abnormal septal motion/position consistent with right 
ventricular pressure/volume overload. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is moderate pulmonary artery systolic hypertension. There 
is a trivial/physiologic pericardial effusion.
IMPRESSION: Dilated and hypokinetic right ventricle with 
moderate pulmonary artery systolic hypertension. Preserved left 
ventricular systolic function.  

___, CTa chest w/ and w/o contrast
IMPRESSION:
 
1. Extensive bilateral pulmonary emboli. The pulmonary artery is 
enlarged
suggesting pulmonary hypertension.  No definite CT signs of 
right heart
strain.
2. Presumed bullet fragment ___ medical records note) in 
central canal at T9/T10.
3. 3.0 x 2.4 x 2.6 cm intermediate density structure along the
posterior-medial pleura of left lung base at the level of 
previous gunshot
trauma, may be post-traumatic however comparison with prior 
studies would be helpful to establish acuity.
4. 4mm left lower lobe lung nodule.  No follow up is recommended 
in low risk patients, but for high risk patients 12 month follow 
up is recommended, correlate with prior imaging is advised.

___, B/L ___ veins:
IMPRESSION: 
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.

LABS UPON DISCHARGE:
--------------------
___ 05:05AM BLOOD WBC-6.2 RBC-4.62 Hgb-13.0* Hct-41.0 
MCV-89 MCH-28.1 MCHC-31.7* RDW-14.1 RDWSD-45.3 Plt ___
___ 05:05AM BLOOD Glucose-87 UreaN-17 Creat-1.2 Na-136 
K-4.0 Cl-99 HCO3-29 AnGap-12
___ 05:05AM BLOOD Calcium-10.3 Phos-3.0 Mg-1.___ year old male with T9 paraplegia s/p GSW in ___ 
who presents with bilateral lobar PE.

#B/l lobar PE
Mr ___ presented with chills, shortness ___ and chest 
pain with evidence of right heart strain without hemodynamic 
compromise upon admission to the ED. CTa revealed extensive 
bilateral pulmonary emboli. Troponin was .33 and downtrended 
during hospitalization. The patient was started on a heparin 
drip. He was evaluated by ___ (PE service) in the emergency 
department: they believed there was a component of chronicity to 
this clot burden and recommended continued antiocoagulation 
without lytics. Pt's immobility is major risk factor, lacks 
other known major risk factors. The patient experienced no 
symptoms during his hospitalization and was transitioned to oral 
xarelto. Upon discharge, the patient will continue xarelto 15 mg 
PO BID for three weeks followed by 20 mg PO daily after three 
weeks. There was no evidence of venous thrombi on doppler 
studies of the lower extremities.

___
Cr was 1.3 upon admission. Likely pre-renal in setting of poor 
forward flow ___ to right heart strain. Cr then normalized.

#Recent UTI
Dx at rehab, reportedly ___ while there. Pain on catheter 
insertion, no dysuria.Continue levaquin to complete 7 day course 
(end: ___

#T9 paraplegia
We continued intermittent urinary cath q 6 hours.
Social work and physical therapy were consulted to assess for 
outpatient services that may be available to the patient.

TRANSITIONAL INFO:
New medication: Xarelto 15 mg PO BID for first three weeks of 
treatment followed by 20 mg PO daily 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxycoDONE (Immediate Release)  ___ mg PO ___ 
2. Bisacodyl ___AILY:PRN constipation 

 
Discharge Medications:
1. Rivaroxaban 15 mg PO BID Duration: 21 Days 
with food 
RX *rivaroxaban [___] 15 mg (42)- 20 mg (9) 1 tablets(s) by 
mouth as directed Disp #*1 Dose Pack Refills:*0
2. Rivaroxaban 20 mg PO DAILY 
with food 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
3. Bisacodyl ___AILY:PRN constipation 
4. OxycoDONE (Immediate Release)  ___ mg PO ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Pulmonary emboli

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You were admitted with shortness of breath and found 
to have blood clots in your lungs. You were treated with blood 
thinners and started on a medication called rivaxoaban (also 
know as xarelto). This is a blood thinner. You will take 15mg 
twice daily for 21 days, and then transition to 20mg once daily 
after that. 

You should follow-up with a Cardiologist after your discharge 
since your heart showed some evidence of straining to pump 
against the blood clots in your lungs. We will want to repeat an 
echocardiogram (ultrasound of your heart) to make sure your 
heart function returns to normal after the blood clots clear.

We wish you the best!
-Your ___ Team
 
Followup Instructions:
___